US08134001B2
In a manner similar to the method described in example 6a, racemic(2′R, 3R, 4′S)-2′-[2-(4-carbamoyl-phenoxy)-5-iodo-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (0.35 g, 0.5 mmol) was reacted with trimethylsilyl acetylene (0.49 g, 5 mmol), CuI (3 mg), triethylamine (1.52 mL, 15 mmol), and dichlorobis(triphenylphosphine) palladium (0) (28 mg, 0.04 mmol) in anhydrous N,N-dimethylformamide, and then treated with aqueous NaOH in methanol to give racemic(2′R, 3R, 4′S)-2′-[2-(4-carbamoyl-phenoxy)-5-ethynyl-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as an off white solid (Yield 0.25 g, 84%)

reactant | 2′-[2-(4-carbamoyl-phenoxy)-5-iodo-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.5 mmol, 0.35 g | C(N)(=O)C1=CC=C(OC2=C(C=C(C=C2)I)C2NC(CC(C23C(NC2=CC(=CC=C23)Cl)=O)C2=CC(=CC=C2)Cl)=O)C=C1 | C31H22Cl2IN3O4
reactant | trimethylsilyl acetylene | 5 mmol, 0.49 g | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 15 mmol, 1.52 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | [OH-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
catalyst | CuI | 3 mg | [Cu]I
product | 2′-[2-(4-carbamoyl-phenoxy)-5-ethynyl-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | C(N)(=O)C1=CC=C(OC2=C(C=C(C=C2)C#C)C2NC(CC(C23C(NC2=CC(=CC=C23)Cl)=O)C2=CC(=CC=C2)Cl)=O)C=C1 | C33H23Cl2N3O4
